US08859773B2
To a 0° C. solution of tert-butyl 4-((1-tert-butyl-3-(ethoxycarbonyl)-1H-pyrazol-4-yl)methyl)-4-cyanopiperidine-1-carboxylate (455 mg, 1.09 mmol) in methanol (11 mL) was added a solution of urea-hydrogen peroxide (1.05 g, 10.9 mmol) in 1 M aqueous sodium hydroxide (10.9 mL), dropwise. After stirring for 18 hours at room temperature, volatiles were removed under reduced pressure and the resultant slurry was taken up in water (50 mL), acidified with 2 N aqueous hydrochloric acid and extracted with ethyl acetate (2×50 mL). The combined organic extracts were dried over sodium sulfate, filtered and concentrated to yield 4-((1-(tert-butoxycarbonyl)-4-carbamoylpiperidin-4-yl)methyl)-1-tert-butyl-1H-pyrazole-3-carboxylic acid (418 mg) as a colorless solid. −APCI (M−H) 407.3; 1H NMR (400 MHz, DMSO-d6, δ): 12.33 (br. s., 1H), 7.47 (s, 1H), 7.11 (br. s., 1H), 6.99 (s, 1H), 3.59 (d, J=13.3 Hz, 2H), 2.89 (s, 2H), 2.77 (m, 2H), 1.84 (m, 2H), 1.44 (s, 9H), 1.31 (s, 9H), 1.16 (m, 2H).

reactant | tert-butyl 4-((1-tert-butyl-3-(ethoxycarbonyl)-1H-pyrazol-4-yl)methyl)-4-cyanopiperidine-1-carboxylate | 1.09 mmol, 455 mg | C(C)(C)(C)N1N=C(C(=C1)CC1(CCN(CC1)C(=O)OC(C)(C)C)C#N)C(=O)OCC | C22H34N4O4
reactant | urea hydrogen peroxide | 10.9 mmol, 1.05 g | NC(=O)N.OO
solvent | methanol | 11 mL | CO | CH4O
solvent | sodium hydroxide | 1 M, 10.9 mL | [OH-].[Na+]
product | 4-((1-(tert-butoxycarbonyl)-4-carbamoylpiperidin-4-yl)methyl)-1-tert-butyl-1H-pyrazole-3-carboxylic acid | 418 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(N)=O)CC=1C(=NN(C1)C(C)(C)C)C(=O)O | C20H32N4O5
